US04259440
CHOLESTEROL ESTERASE ASSAY
In a 250 ml flask, a reaction mixture (designated "mixture A") was prepared by adding to 90 ml of distilled water the following: 1.497 g (KH2PO4 ; 1.568 g K2HPO4 ; 0.431 g. sodium cholate; 1.05 ml of a 25% solution of an alkylphenoxypolyethoxy ethanol, commercially available from Rohm and Haas Co., Philadelphia, Pa., under the trade designation Triton X-100; 0.0169 g 4-aminoantipyrine (used as a chromogen); and 0.145 ml phenol (10 M). Sufficient distilled water was added to make a final volume of 100 ml.

reactant | KH2PO4 | OP(=O)(O)[O-].[K+]
reactant | K2HPO4 | 1.568 g | OP(=O)([O-])[O-].[K+].[K+]
reactant | sodium cholate | C[C@H](CCC(=O)[O-])[C@H]1CC[C@@H]2[C@@]1([C@H](C[C@H]3[C@]2([C@@H](C[C@H]4[C@@]3(CC[C@H](C4)O)C)O)C)O)C.[Na+]
reactant | X-100 | CCC(CC)COC(C1=CC=CC=C1)(C2=CC=CC=C2)C(=O)N(C)CC[NH+](C)C.[Cl-]
reactant | 4-aminoantipyrine | 0.0169 g | CC1=C(C(=O)N(N1C)C=2C=CC=CC2)N | C11H13N3O
reactant | phenol | 10 M, 0.145 ml | C1(=CC=CC=C1)O | C6H6O
solvent | ethanol | C(C)O | C2H6O
solvent | water | 90 ml | O | H2O
product | CHOLESTEROL | CC(C)CCC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CC=C4C[C@@H](O)CC[C@]4(C)[C@H]3CC[C@]12C | C27H46O
